US07018988B2
(2S,4EZ)-N-cyclopropyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-1-(diphenylacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and cyclopropylamine the title compound was obtained in 49% purity by LC/MS. MS(ESI+): m/z=536.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-N-cyclopropyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-1-(diphenylacetyl)-2-pyrrolidinecarboxamide | C1(CC1)NC(=O)[C@H]1N(CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H27Cl2N3O3
